US06800629B2
In 4 mL of methanol was dissolved 0.2 g of methyl 3,6-difluoro-2-pyrazinecarboxylate. Then, a 28% methanol solution of sodium methoxide was added at −25° C., and the mixture thus obtained was stirred at 0° C. for 10 minutes. The reaction mixture was poured into a mixture of 30 mL of ethyl acetate and 30 mL of water, and the organic layer was separated. The organic layer thus obtained was washed successively with 15 ml of water and 15 mL of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel chromatography [eluent: n-hexane:ethyl acetate=5:1] to obtain 0.09 g of methyl 6-fluoro-3-methoxy-2-pyrazinecarboxylate as a colorless solid product.

reactant | methyl 3,6-difluoro-2-pyrazinecarboxylate | 0.2 g | FC=1C(=NC(=CN1)F)C(=O)OC | C6H4F2N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 30 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | methyl 6-fluoro-3-methoxy-2-pyrazinecarboxylate | 0.09 g | FC1=CN=C(C(=N1)C(=O)OC)OC | C7H7FN2O3
